US04241079
To a mixture of 3-amino-4-(3-carbomethoxy-S-methylisothioureido)benzophenone (3.43 g.; 0.01 mol) in benzene (100 ml.) there is added p-methoxybenzaldehyde (1.36 g.; 0.01 mol) and p-toluenesulfonic acid monohydrate (0.1 g.). The mixture is refluxed and stirred for 3 hours. The water reaction is removed by a Dean-Stark distillation receiver. The mixture is poured into an excess of hexane and the suspension formed is filtered. The filter cake is dried to afford 3-imino-(4-methoxyphenyl)methyl-4-(3-carbomethoxy-S-methylisothioureido)benzophenone.

reactant | 3-amino-4-(3-carbomethoxy-S-methylisothioureido)benzophenone | 0.01 mol, 3.43 g | NC=1C=C(C(=O)C2=CC=CC=C2)C=CC1NC(SC)=NC(=O)OC | C17H17N3O3S
reactant | p-methoxybenzaldehyde | 0.01 mol, 1.36 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | p-toluenesulfonic acid monohydrate | 0.1 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 3-imino-(4-methoxyphenyl)methyl-4-(3-carbomethoxy-S-methylisothioureido)benzophenone | N=C1C(C(C(=O)C2=CC=CC=C2)=CC=C1NC(SC)=NC(=O)OC)CC1=CC=C(C=C1)OC | C25H25N3O4S
